US06586421B2
tert-Butyl 6-{2-[(methylsulfonyl)oxy]ethyl }-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.224 g, 0.549 mmol) and NaN3 (0.357 g, 5.49 mmol, 10.0 equiv.) were dissolved in DMF (2.5 mL) and the solution was stirred at 60° C. under N2 for 14.5 h. The reaction mixture was taken up in EtOAc and washed with water (2×15 mL). The aqueous layers were back extracted with EtOAc (25 mL). The combined organic layers were washed with brine (10 mL), dried over MgSO4, filtered and concentrated. The crude product (0.214 g) was chromatographed (SiO2 25 g, eluted with 3:1 hexane:EtOAc) to give tert-butyl 6-(2-azidoethyl)-1,4,5, 6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.184 g) in 94% yield. 1H NMR (300 MHz, CDCl3) δ 1.51, 2.99-3.10, 3.60, 3.66-3.84, 4.26, 7.14, 7.21, 7.27, 7.51; MS (ESI+) for Cl9H25N5O2 m/z 356.2 (M+H)+.

reactant | tert-Butyl 6-{2-[(methylsulfonyl)oxy]ethyl }-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.549 mmol, 0.224 g | CS(=O)(=O)OCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C20H28N2O5S
reactant | NaN3 | 5.49 mmol, 0.357 g, 10.0 equiv. | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 6-(2-azidoethyl)-1,4,5, 6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.184 g, 94% yield | N(=[N+]=[N-])CCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C19H25N5O2
